US05780642
A solution of 4-chlorothiophenol (64.8 g), 2-amino-2-methylpropanol (39.8 g) and toluene (160 ml) was treated with propionic acid (33.2 g) and the mixture boiled under reflux for 24 hours, collecting the water formed using a Dean and Stark apparatus. The mixture was dissolved in dichloromethane, washed with saturated sodium bicarbonate solution, dilute sodium hydroxide solution and then water. The organic layer was dried, filtered and evaporated to give an oil which was dried under high vacuum at 70° C. The oil, which solidified on standing, was dissolved in ether and treated with ethereal hydrogen chloride to give N-[2-(4-chlorophenylthio)-1,1-dimethylethyl]propionamide.

reactant | 4-chlorothiophenol | 64.8 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | 2-amino-2-methylpropanol | 39.8 g | NC(CO)(C)C | C4H11NO
reactant | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
reactant | propionic acid | 33.2 g | C(CC)(=O)O | C3H6O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[2-(4-chlorophenylthio)-1,1-dimethylethyl]propionamide | ClC1=CC=C(C=C1)SCC(C)(C)NC(CC)=O | C13H18ClNOS
